US04916152
A solution of (2S,4R)-1-(4-chlorophenyl-sulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-2-(4methoxycarbonylphenyl)vinyl]pyrrolidine (15.0 g) in a mixture of methanol (100 ml) and 1N aqueous sodium hydroxide (75 ml) was stirred at 50° C. for 4 hours and the volatile solvent was evaporated in vacuo. The residual aqueous solution was adjusted to pH 1 with concentrated hydrochloric acid. The white precipitate was collected by filtration and washed with water to give (2S,4R)-2-[(Z)-2-(4-carboxyphenyl)vinyl]-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)pyrrolidine (14.50 g) as a white powder.

reactant | (2S,4R)-1-(4-chlorophenyl-sulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-2-(4methoxycarbonylphenyl)vinyl]pyrrolidine | 15.0 g | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/C1=CC=C(C=C1)C(=O)OC | C26H24Cl2N2O6S2
solvent | methanol | 100 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 75 ml | [OH-].[Na+]
product | (2S,4R)-2-[(Z)-2-(4-carboxyphenyl)vinyl]-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)pyrrolidine | 14.50 g | C(=O)(O)C1=CC=C(C=C1)\C=C/[C@H]1N(C[C@@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)S(=O)(=O)C1=CC=C(C=C1)Cl | C25H22Cl2N2O6S2
